US08309341B2
Step C: tert-Butyl (1S)-2-oxo-1-(3-oxopropyl)cyclopentanecarboxylate
A solution of acrolein (4.19 g; 74.83 mmoles—2.5 eq.) in 10 mL of anhydrous dichloromethane is poured, over 30 minutes, at −25° C., under argon and with slow stirring, into a solution of tert-butyl 2-oxo-cyclopentanecarboxylate (5.51 g; 29.93 mmoles) and catalyst Q (1.46 g; 2.99 mmoles—0.1 eq.) in 60 mL of anhydrous dichloromethane

reactant | acrolein | 4.19 g | C(=O)C=C | C3H4O
reactant | tert-butyl 2-oxo-cyclopentanecarboxylate | 29.93 mmoles, 5.51 g | O=C1C(CCC1)C(=O)OC(C)(C)C | C10H16O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | tert-Butyl (1S)-2-oxo-1-(3-oxopropyl)cyclopentanecarboxylate | O=C1[C@@](CCC1)(C(=O)OC(C)(C)C)CCC=O | C13H20O4
